US08084448B2
D. ((E)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-1,1-dimethylallyl)-carbamic Acid Tert-butyl Ester
To a solution of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (1.4 g, 3 mmol) in DMF (20 mL) is added (1,1-dimethylallyl)-carbamic acid tert-butyl ester (560 mg, 3 mmol), triethylamine (0.7 mL, 5 mmol) and tert-di(mu-acetato) bis[o-(di-o-tolylphosphino)benzyl]dipalladium (II) (25 mg). The mixture is stirred at 80° C. for 18 h. The solvent is removed under reduced pressure and the residue is purified by flash chromatography to give the title compound

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 3 mmol, 1.4 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | (1,1-dimethylallyl)-carbamic acid tert-butyl ester | 3 mmol, 560 mg | C(C)(C)(C)OC(NC(C=C)(C)C)=O | C10H19NO2
reactant | triethylamine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ((E)-3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-1,1-dimethylallyl)-carbamic Acid Tert-butyl Ester | C(C)(C)(C)OC(NC(\C=C\C1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)(C)C)=O | C30H43N3O6SSi
